US07157488B2
N-t-Butoxycarbonyl-2-(5-cyano-1H-indol-3-yl)ethylamine
Combine di-tert-butyl dicarbonate and a solution of 5-cyanotryptamine (1.33 g, 7.15 mmol) and 2N NaOH (4.2 ml) in THF (60 ml). After 3 hours at ambient temperature, evaporate to residue. Dissolve the residue in water and extract with dichloromethane. Combine the organic extracts, wash with brine, dry (Na2SO4),and evaporate to residue. Chromatograph the residue on silica gel eluting with dichloromethane/2N NH3(methanol) (97/3)) to give the title compound: mp 129–132° C. MS (ACPI): m/e 286.2 (M+1). Analysis for C16H19N3O2: Calcd: C, 67.35; H, 6.71; N, 14.73; found: C, 67.16; H, 6.68; N, 14.46.

reactant | di-tert-butyl dicarbonate | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 5-cyanotryptamine | 7.15 mmol, 1.33 g | C(#N)C1=CC=C2NC=C(CCN)C2=C1 | C11H11N3
reactant | NaOH | 2N, 4.2 ml | [OH-].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | N-t-Butoxycarbonyl-2-(5-cyano-1H-indol-3-yl)ethylamine | C(C)(C)(C)OC(=O)NCCC1=CNC2=CC=C(C=C12)C#N | C16H19N3O2
